US05789404
To a solution of 5-chloroindole (20 g, 0.13 mol) in dry diethyl ether (200 mL) was added a solution of oxalylchloride (20 g, 0.16 mol) in dry diehtyl ether (200 mL) at 0°-5° C. After stirring for 0.5 h at 0°-5° C. was added a solution of benzylmethylamine (24 g, 0.20 mol) in dry diethyl ether at 0°-5° C. and triethylamine was slowly added to pH at 8-9. Water and ethyl acetate (500 mL) was added and the organic phase was washed with brine and dried (Na2SO4). Evaporation of the solvents afforded the crude N-benzyl-N-methyl-2-(5-chloro-1-(4-fluorophenyl)-3-1H-indolyl)-2-oxoacetamide (19.1 g) as an oil. A solution of the crude N-benzyl-N-methyl-2-(5-chloro-1-(4-fluorophenyl)-3-1H-indolyl)-2-oxoacetamide (20.1 g, 0.058 mol) in dry tetrahydrofuran (200 mL) was added to a suspension of lithium aluminium hydride (5.4 g, 0.14 mol) in tetrahydrofuran (100 mL). After heating at reflux for 2.5 h the reaction mixture was cooled to 0° C. and treated with water (6 mL) and 4N aqueous NaOH (6 mL). The precipitate was filtered off and extracted with dichloromethane (3×200 mL). The combined organic phases were dried (Na2SO4) and the solvents were evaporated. The remaining oil was purified by column chromatography (eluted with ethyl acetate) affording N-benzyl-N-methyl-2-(5-chloro-3-1H-indolyl)ethylamine (16 g) as an oil: 1H NMR (CDCl3) δ 2.30 (s, 3 H), 2.65-2.80 (m, 2 H), 2.85-3.00 (m, 2 H), 3.60 (s, 2 H), 6.95 (broad s, 1 H), 7.05-7.20 (m, 2 H), 7.15-7.35 (m, 5), 7.45 (broad s,1 H), 8.35 (broad s,1 H).

reactant | N-benzyl-N-methyl-2-(5-chloro-1-(4-fluorophenyl)-3-1H-indolyl)-2-oxoacetamide | 0.058 mol, 20.1 g | C(C1=CC=CC=C1)N(C(C(=O)C1=CN(C2=CC=C(C=C12)Cl)C1=CC=C(C=C1)F)=O)C | C24H18ClFN2O2
reactant | lithium aluminium hydride | 0.14 mol, 5.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 6 mL | O | H2O
reactant | NaOH | 4N, 6 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-benzyl-N-methyl-2-(5-chloro-3-1H-indolyl)ethylamine | 16 g | C(C1=CC=CC=C1)N(C)CCC1=CNC2=CC=C(C=C12)Cl | C18H19ClN2
